US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-3-pyridin-4-yl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=583.0 (M+H+), was prepared in accordance with the general method of example 83 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one and 4-pyridineboronic acid.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(NCN3C3=C(C=CC=C3)Cl)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H18ClF6N3O2
reactant | 4-pyridineboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-3-pyridin-4-yl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=C(C=CC=C3)Cl)C3=CC=NC=C3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C27H21ClF6N4O2
